simulator lang=spectre
global 0

ahdl_include "./dut/reset_release_sequencer.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=350p period=1.15n width=470p rise=25p fall=25p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.4n 0.9 1.45n 0 9.3n 0 9.35n 0.9 10.2n 0.9 10.25n 0 17n 0]
Vsupply (supply_ok 0) vsource type=pwl wave=[0 0 1.9n 0 1.95n 0.9 7.1n 0.9 7.15n 0 8n 0 8.05n 0.9 13n 0.9 13.05n 0 14n 0 14.05n 0.9 17n 0.9]
Vbias (bias_ok 0) vsource type=pwl wave=[0 0 2.5n 0 2.55n 0.9 5.9n 0.9 5.95n 0 6.7n 0 6.75n 0.9 17n 0.9]

XDUT (clk rst supply_ok bias_ok stage1 stage2 ready progress) reset_release_sequencer


tran tran stop=17n maxstep=10p
save clk rst supply_ok bias_ok stage1 stage2 ready progress time
