simulator lang=spectre
global 0

ahdl_include "./dut/single_shot_timer_pulse.va"

Vin (vin 0) vsource type=pwl wave=[0 0 0.80n 0 0.82n 0.9 1.10n 0.9 1.12n 0 3.25n 0 3.27n 0.9 3.70n 0.9 3.72n 0 6.2n 0]
XDUT (vin vout) single_shot_timer_pulse

tran tran stop=6.0n maxstep=5p
save vin vout
