simulator lang=spectre
global 0

ahdl_include "./dut/comparator.va"

// threshold comparator bidirectional polarity testbench
// VINP starts below VINN, ramps above VINN, then ramps below VINN again.
// Public checks require low-for-negative-diff, high-for-positive-diff,
// one rising trip near zero differential, and one falling trip near zero differential.

Vvdd  (VDD  0) vsource dc=0.9
Vvss  (VSS  0) vsource dc=0.0
Vvinp (VINP 0) vsource type=pwl wave=[0 0.42 5n 0.42 12n 0.48 18n 0.48 25n 0.42 30n 0.42]
Vvinn (VINN 0) vsource dc=0.45

IDUT (VDD VSS VINP VINN OUT_P) comparator


tran tran stop=30n maxstep=0.1n
save VDD VSS VINP VINN OUT_P
