simulator lang=spectre
global 0

ahdl_include "./dut/attenuator_gain.va"

Vin (vin 0) vsource type=pwl wave=[0 -0.3 8n -0.3 8.1n 1.0 18n 1.0 18.1n 0.05 28n 0.05 28.1n 0.65 40n 0.65]

XDUT (vin vout) attenuator_gain attenuation=6.020599913279624


tran tran stop=35n maxstep=25p
save vin vout
