simulator lang=spectre
global 0

ahdl_include "./dut/bin2ther_2b.va"

Vdd (vdd 0) vsource dc=1.0
Vgnd (gnd 0) vsource dc=0
Vb0 (b0 0) vsource type=pwl wave=[0 1.0 0.8n 1.0 0.85n 0 2.4n 0 2.45n 1.0 3.9n 1.0]
Vb1 (b1 0) vsource type=pwl wave=[0 1.0 0.8n 1.0 0.85n 0 1.6n 0 1.65n 1.0 2.4n 1.0 2.45n 0 3.2n 0 3.25n 1.0 3.9n 1.0]
XDUT (vdd gnd b1 b0 t0 t1 t2) bin2ther_2b

tran tran stop=3.8n maxstep=5p
save vdd gnd b1 b0 t0 t1 t2
