simulator lang=spectre
global 0

ahdl_include "./dut/bipolar_dff_sample.va"

Vd (vin_d 0) vsource type=pwl wave=[0 0.4 0.5n 0.4 0.55n -0.2 1.1n -0.2 1.15n 0.8 1.7n 0.8 1.75n -0.6 2.4n -0.6]
Vclk (vclk 0) vsource type=pwl wave=[0 0 0.25n 0 0.27n 0.9 0.45n 0.9 0.47n 0 0.95n 0 0.97n 0.9 1.15n 0.9 1.17n 0 1.65n 0 1.67n 0.9 1.85n 0.9 1.87n 0 2.25n 0 2.27n 0.9 2.45n 0.9 2.47n 0]
XDUT (vin_d vclk vout_q vout_qbar) bipolar_dff_sample

tran tran stop=2.4n maxstep=5p
save vclk vin_d vout_q vout_qbar
