simulator lang=spectre
global 0

ahdl_include "./dut/clock_sample_1600n_sequencer.va"

XDUT (rst s nc res conv) clock_sample_1600n_sequencer
Iground_ref (rst 0) isource dc=0

tran tran stop=18n maxstep=20p
save conv nc res rst s
