simulator lang=spectre
global 0

ahdl_include "./dut/comparator_reset_low_1p8.va"

Vclk (cmpck 0) vsource type=pulse val0=0 val1=1.8 delay=0.30n period=0.85n width=0.32n rise=20p fall=20p
Vinp (vinp 0) vsource type=pwl wave=[0 1.25 0.90n 1.25 0.95n 0.90 1.75n 0.90 1.80n 0.55 2.60n 0.55 2.65n 1.10 3.60n 1.10]
Vinn (vinn 0) vsource dc=0.9
XDUT (cmpck vinn vinp dcmpn dcmpp) comparator_reset_low_1p8

tran tran stop=3.6n maxstep=5p
save cmpck vinn vinp dcmpn dcmpp
