simulator lang=spectre
global 0

ahdl_include "./dut/deadband_window.va"

Vin (sigin 0) vsource type=pwl wave=[0 0.35 8n 0.35 8.1n -0.35 18n -0.35 18.1n -0.2 24n -0.2 24.1n 0 32n 0 32.1n 0.22 45n 0.22]

XDUT (sigin sigout) deadband_window dead_low=-0.2 dead_high=0.2


tran tran stop=40n maxstep=25p
save sigin sigout
