simulator lang=spectre
global 0

ahdl_include "./dut/differential_deadband.va"

Vp (sigin_p 0) vsource type=pwl wave=[0 0.70 8n 0.70 8.1n 0.30 18n 0.30 18.1n 0.53 28n 0.53 28.1n 0.60 38n 0.60 38.1n 0.42 45n 0.42]
Vn (sigin_n 0) vsource type=pwl wave=[0 0.35 8n 0.35 8.1n 0.65 18n 0.65 18.1n 0.48 28n 0.48 28.1n 0.40 38n 0.40 38.1n 0.58 45n 0.58]

XDUT (sigin_p sigin_n sigout) differential_deadband dead_low=-0.2 dead_high=0.2 gain=1 leak=0.05


tran tran stop=40n maxstep=25p
save sigin_n sigin_p sigout
