simulator lang=spectre
global 0

ahdl_include "./dut/differential_vco_clip_idtmod.va"

// Hidden testbench for differential_vco_clip_idtmod.
// V(vinp,vinm)=0.85-0.25=0.60 => raw freq=116 MHz, clipped to Fmax=80 MHz.

Vinp (vinp 0) vsource dc=0.85 type=dc
Vinm (vinm 0) vsource dc=0.25 type=dc

XDUT (vinp vinm outp outm metric) differential_vco_clip_idtmod


tran tran stop=1.5u maxstep=5n
save vinp vinm outp outm metric
