simulator lang=spectre
global 0

ahdl_include "./dut/cross_interval_163p333_ref.va"

Vvdd (vdd 0) vsource dc=1.0 type=dc
Vvss (vss 0) vsource dc=0.0 type=dc

// The two ramps cross 0.45 V at 7.000000 ns and 7.260000 ns.
Va (a 0) vsource type=pwl wave=[0 0 6.95n 0 7.05n 0.9 11n 0.9]
Vb (b 0) vsource type=pwl wave=[0 0 7.210n 0 7.310n 0.9 11n 0.9]

IDUT (vdd vss a b delay_out seen_out) cross_interval_163p333_ref

simulatorOptions options reltol=1e-5 vabstol=1e-8 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12


tran tran stop=11n maxstep=5p errpreset=conservative
save vdd vss a b delay_out seen_out
